US07977499B2
a) Preparation of 1-phenylchlorophosphino-1′-bromoferrocene (X1)
14.5 ml (23.2 mmol) of n-BuLi (1.6 M in hexane) are added dropwise to a solution of 8 g (23.2 mmol) of 1,1′-dibromoferrocene in 30 ml of THF at a temperature of <−30° C. The mixture is stirred for another 30 minutes at this temperature. It is then cooled to −78° C. and 3.15 ml (23.2 mmol) of phenyldichlorophosphine are added dropwise at such a rate that the temperature does not exceed −60° C. After stirring at −78° C. for a further 10 minutes, the temperature is allowed to rise to room temperature and the mixture is stirred for another one hour. This gives a suspension of the monochlorophosphine X1.

reactant | n-BuLi | 23.2 mmol, 1.6 M, 14.5 ml | [Li]CCCC
reactant | 1,1′-dibromoferrocene | 23.2 mmol, 8 g | Br[C-]1C=CC=C1.[C-]1(C=CC=C1)Br.[Fe+2]
reactant | phenyldichlorophosphine | 23.2 mmol, 3.15 ml | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | monochlorophosphine | ClP | ClH2P
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-phenylchlorophosphino-1′-bromoferrocene | C1(=CC=CC=C1)[C-]1C(=CC=C1)PCl.Br[C-]1C=CC=C1.[Fe+2] | InChI=1S/C11H9ClP.C5H4Br.Fe/c12-13-11-8-4-7-10(11)9-5-2-1-3-6-9;6-5-3-1-2-4-5;/h1-8,13H;1-4H;/q2*-1;+2
